US08106045B2
1,1′-Carbonyldiimidazole (540 mg, 3.30 mmol) was added to a solution of 4-[(2S)-4-((1R)-1-phenyl-ethy)-morpholin-2-yl]-benzoic acid (944 mg, 3.03 mmol) in dichloromethane at 0° C. After stirring for 2 hours, ethanolamine (0.36 ml, 6.0 mmol) was added to the reaction mixture and the mixture was stirred over night. The resulting suspension was concentrated in vacuo and the residue was purified by silica gel chromatography (ethyl acetate-hexane) to afford N-(2-hydroxy-ethyl)-4-[(2S)-4-((1R)-1-phenyl-ethy)-morpholin-2-yl]-benzamide (789 mg, 73%.) as a colorless oil.

reactant | 1,1′-Carbonyldiimidazole | 3.30 mmol, 540 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-[(2S)-4-((1R)-1-phenyl-ethy)-morpholin-2-yl]-benzoic acid | 3.03 mmol, 944 mg | C1(=CC=CC=C1)[C@@H](C)N1C[C@@H](OCC1)C1=CC=C(C(=O)O)C=C1 | C19H21NO3
reactant | ethanolamine | 6.0 mmol, 0.36 ml | C(O)CN | C2H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-hydroxy-ethyl)-4-[(2S)-4-((1R)-1-phenyl-ethy)-morpholin-2-yl]-benzamide | 789 mg, 73% | OCCNC(C1=CC=C(C=C1)[C@H]1CN(CCO1)[C@H](C)C1=CC=CC=C1)=O | C21H26N2O3
